US07312330B2
C. 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidine
N,N-Dimethylaniline (1.2 g, 10 mmol) and phosphorus oxychloride (12.2 g, 80 mmol) were added to the solution of 7-benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4(4aH)-one (˜10 mmol) in 1,2-dichloroethane (30 mL, anhydrous) and were stirred in a preheated oil bath at 90° C. for 30 min. Reaction mixture was poured into ice, neutralized by solid sodium bicarbonate, extracted by ethyl acetate and dried over sodium sulfate. Solvent was removed in vacuo and the resulting brown oil was used directly in the next step.

reactant | N,N-Dimethylaniline | 10 mmol, 1.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 80 mmol, 12.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4(4aH)-one | ˜10 mmol | C(C1=CC=CC=C1)N1CC2=NC(=NC(C2CC1)=O)CN1CCOCC1 | C19H24N4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)CN1CCOCC1 | C19H23ClN4O
